US06090825
To a 22-L flask is added 526.4 g (3.07 mol) of 1-acetylpiperidine-4-carboxylic acid, 8 L of methylene chloride, and 55 mL of DMF. To the resultant heterogeneous suspension is added 508.9 g (3.13 mol) of carbonyl diimidazole in two portions at room temperature. After two hours, 583.5 g (3.07 mol) of 2-Amino-1-(4-fluoro-phenyl)-ethanone hydrochloride (J. Heterocylcic Chem (1987), 24, 297. ) is added and the resultant mixture is allowed to stir overnight. The reaction mixture is extracted with 2 N HCl (3×1 L), saturated sodium bicarbonate solution (3×1 L), brine (1×1 L), dried over sodium sulfate, and filtered. To the filtrate is added toluene and the solution is concentrated in-vacuo to ca. 100 mL and the resultant precipitate is filtered. The solid is dried in-vacuo at 60° C. for 18 h to give 800 g of 1-Acetyl-piperidine-4-carboxylic acid[2-(4-fluoro-phenyl)-2-oxo-ethyl]-amide as an off-white solid.

reactant | 1-acetylpiperidine-4-carboxylic acid | 3.07 mol, 526.4 g | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | methylene chloride | 8 L | C(Cl)Cl | CH2Cl2
reactant | carbonyl diimidazole | 3.13 mol, 508.9 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2-Amino-1-(4-fluoro-phenyl)-ethanone hydrochloride | 3.07 mol, 583.5 g | Cl.NCC(=O)C1=CC=C(C=C1)F
solvent | DMF | 55 mL | CN(C)C=O | C3H7NO
product | 1-Acetyl-piperidine-4-carboxylic acid[2-(4-fluoro-phenyl)-2-oxo-ethyl]-amide | 800 g | FC1=CC=C(C=C1)C(CNC(=O)C1CCN(CC1)C(C)=O)=O | C16H19FN2O3
